US20010056105A1
(b) 1-Trimethylsilylethynyl-4-methoxymethoxybenzene
5.74 g (21.7 mmol) of 1-iodo-4-methoxymethoxybenzene, 100 ml of triethylamine and a mixture of 1.53 g (2.18 mmol) of dichlorobis(triphenylphosphine)palladium and 831 mg (4.37 mmol) of copper iodide are introduced into a three-necked flask. 6.14 ml (43.5 mmol) of trimethylsilylacetylene are then added and the medium is stirred for 48 h at room temperature. It is then poured into a water/ethyl acetate mixture. The organic phase is washed twice with water and, after separation of the phases by settling, it is washed with magnesium sulphate and concentrated.

reactant | 1-iodo-4-methoxymethoxybenzene | 21.7 mmol, 5.74 g | IC1=CC=C(C=C1)OCOC | C8H9IO2
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 43.5 mmol, 6.14 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | dichlorobis(triphenylphosphine)palladium | 2.18 mmol, 1.53 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 4.37 mmol, 831 mg | [Cu](I)I
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | 1-Trimethylsilylethynyl-4-methoxymethoxybenzene | C[Si](C#CC1=CC=C(C=C1)OCOC)(C)C | C13H18O2Si
